US08729105B2
Preparation of 5-(4-chloro-2-fluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid
The title compound was synthesized in analogy to Examples BI to BJ using 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester (CAN 1211589-51-3) and B-(4-chloro-2-fluorophenyl)-boronic acid, (CAN 160591-91-3) as starting materials; LC-MS (UV peak area/ESI) 98.8%, 348.0061 (M−H)−.

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)OCC(F)(F)F | C9H7BrF3NO3
reactant | B-(4-chloro-2-fluorophenyl)-boronic acid | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
product | 5-(4-chloro-2-fluorophenyl)-6-(2,2,2-trifluoroethoxy)nicotinic acid | ClC1=CC(=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F)F | C14H8ClF4NO3
